US08445684B2
3-[[1-(tert-Butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[4-[2-(3-pyridylmethoxy)ethyl]-1-piperidinyl]pyridine
To a solution of 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(R)-pyrrolidinyl]methoxy]pyridine (147 mg, 0.41 mmol) and 4-[2-(3-pyridylmethoxy)ethyl]piperidine (99.8 mg, 0.45 mmol, 1.1 equiv.) in anhydrous toluene (2 mL) were added successively potassium tert-butoxide (75 mg, 0.61 mmol, 1.5 equiv.), tris(dibenzylideneacetone)dipalladium(0) (7.5 mg, 8.0 μmol, 0.02 equiv.), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos; 14.3 mg, 24 μmol, 0.06 equiv.). The mixture was degassed and purged with Ar (3 cycles), then warmed by microwave irradiation under Ar. After reaction for 30-40 minutes at 130° C., the mixture was cooled to room temperature, diluted with EtOAc, and washed with brine. The solution was dried over Na2SO4 and evaporated, and the residue was purified by CC (SiO2, CH2Cl2/EtOAc 4:1 followed by CH2Cl2/MeOH 10:1). The product (182 mg, 89%) was obtained as a pale yellow oil. 1H NMR (CDCl3, 400 MHz) δ 8.56 (br, 2H), 7.80 (m, 3H), 7.46 (m, 1H), 6.94 (m, 1H), 4.51 (s, 2H), 4.12 (m, 2H), 3.83 (m, 1H), 3.66 (m, 2H), 3.54 (m, 2H), 3.39 (m, 2H), 2.76 (t, 2H, J=11.2 Hz), 2.01-1.80 (m, 5H), 1.63 (m, 4H), 1.46 (s, 9H), 1.33 (m, 2H).

reactant | 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(R)-pyrrolidinyl]methoxy]pyridine | 0.41 mmol, 147 mg | BrC=1C=NC=C(C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | 4-[2-(3-pyridylmethoxy)ethyl]piperidine | 0.45 mmol, 99.8 mg, 1.1 equiv. | N1=CC(=CC=C1)COCCC1CCNCC1 | C13H20N2O
reactant | potassium tert-butoxide | 0.61 mmol, 75 mg, 1.5 equiv. | CC(C)([O-])C.[K+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 8.0 μmol, 7.5 mg, 0.02 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 24 μmol, 14.3 mg, 0.06 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 3-[[1-(tert-Butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[4-[2-(3-pyridylmethoxy)ethyl]-1-piperidinyl]pyridine | 182 mg, 89% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=NC=C(C1)N1CCC(CC1)CCOCC=1C=NC=CC1 | C28H40N4O4
